US08039460B2
tert-Butyl (6S,9R)-6-(2,3-difluorophenyl)-3-(2-hydroxypropyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-ylcarbamate
Methylmagnesium bromide (3.0 M in ether; 0.70 mL, 2.10 mmol) was added to a solution of tert-butyl (6S,9R)-6-(2,3-difluorophenyl)-3-(2-oxoethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-ylcarbamate (85 mg, 0.210 mmol) in tetrahydrofuran (5 mL). After 2 h, the reaction was quenched with saturated aqueous ammonium chloride. Saturated aqueous sodium bicarbonate was added and the mixture was extracted with dichloromethane (3×). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated. Purification by silica gel chromatography (100% dichloromethane→95% dichloromethane/methanol) gave the title compound (73 mg). MS 422.2 (M+1).

reactant | Methylmagnesium bromide | 2.10 mmol, 3.0 M, 0.70 mL | C[Mg]Br
reactant | tert-butyl (6S,9R)-6-(2,3-difluorophenyl)-3-(2-oxoethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-ylcarbamate | 0.210 mmol, 85 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)CC=O)NC(OC(C)(C)C)=O | C21H25F2N3O3
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | tert-Butyl (6S,9R)-6-(2,3-difluorophenyl)-3-(2-hydroxypropyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-ylcarbamate | 73 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)CC(C)O)NC(OC(C)(C)C)=O | C22H29F2N3O3
